US09399798B2
To a solution of 4-iodo-5-nitro-1,2-dimethoxybenzene (4.6 g, 15 mmol) in anhydrous THF (10 mL) at minus 40° C. under a nitrogen atmosphere, phenylmagnesium chloride (2 M in THF, 7.5 mL, 15 mmol) was added dropwise at a rate such that the temperature would not exceed minus 35° C. Upon completion of the addition, the mixture was stirred at minus 40° C. for two hours, followed by addition of trimethyl acetaldehyde (2.0 mL, 18 mmol). The mixture was stirred at minus 40° C. for two hours and then at room temperature for another one hour. The reaction was quenched with brine (100 mL), and the mixture was extracted with CH2Cl2 (40 mL) three times. The combined organic phase was dried over Na2SO4 and concentrated in vacuo, and the residue was purified by silica gel column chromatography to yield racemic (R/S)-1-(4,5-dimethoxy-2-nitrophenyl)-2,2-dimethyl-1-propanol (0.8 g, 20%). 1H NMR (400 MHz, CDCl3): δ 7.41 (1, 1H, Ph-H), 7.21 (s, 1H, Ph-H), 5.60 (s, 1H, PhCH), 3.95 (s, 3H, OCH3), 3.92 (s, 3H, OCH3), 0.90 (s, 9H, (CH3)3).

reactant | 4-iodo-5-nitro-1,2-dimethoxybenzene | 15 mmol, 4.6 g | IC1=CC(=C(C=C1[N+](=O)[O-])OC)OC | C8H8INO4
reactant | phenylmagnesium chloride | 15 mmol, 2 M, 7.5 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | trimethyl acetaldehyde | 18 mmol, 2.0 mL | CC(C=O)(C)C | C5H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | racemic (R/S)-1-(4,5-dimethoxy-2-nitrophenyl)-2,2-dimethyl-1-propanol | 0.8 g, 20% | COC1=CC(=C(C=C1OC)C(C(C)(C)C)O)[N+](=O)[O-] | C13H19NO5
